US09233920B2
Preparation of 4-[(R)-4-(3,5-Dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid tert-butyl ester
Alternatively, the title compound can be obtained by carrying out the following experiment: To a vigorously stirred solution of 4-[(R)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester (100 mg) in ethanol (6 mL) was added Raney Nickel (1.44 g, 50% suspension in water, previously washed with dry ethanol) and the reaction was stirred at room temperature under hydrogen (1 atm) for one hour. Then the solution was filtered over celite, and the resulting filtrate was concentrated in vacuo to give the title compound (78 mg) as a pale yellow solid. Chiral HPLC analysis (Chiralpack IA, Heptane:2-propanol:diethylamine=90:10:0.1, 1 ml/min, retention time 5.77 minutes (91.43%), 8.71 minutes (3.79%).

reactant | 4-[(R)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@](C(F)(F)F)(C[N+](=O)[O-])C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C23H22Cl2F3NO5
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | O | H2O
product | 4-[(R)-4-(3,5-Dichloro-phenyl)-4-trifluoromethyl-4,5-dihydro-3H-pyrrol-2-yl]-2-methyl-benzoic acid tert-butyl ester | 78 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NC[C@](C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C23H22Cl2F3NO2
